US08735362B2
Step A: N-(3-Benzyloxy-2-hydroxy-propyl)-N-ethyl-methanesulfonamide
Triethylamine (0.043 ml, 0.1 equiv) was added to a mixture of N-ethylmethanesulfonamide (413 mg, 1.1 equiv) and 2-benzyloxymethyloxirane (500 mg, 3.04 mmol) prepared according to (J. Am. Chem. Soc., 1996, 118, 7094-7100) in anhydrous dioxane (1 ml). The reaction mixture was then heated to 50° C. overnight. As the reaction was not complete, it was heated to 100° C. for another 5 hours (reaction complete according to TLC). The volatiles were then removed in vacuo. Flash chromatography eluting with cyclohexane/Ethyl acetate (6/4 then 1/1) afforded 836 mg (2.91 mmol, 96%). LCMS (Method E) 1.44 min, M+H 288. 1H-NMR (CDCl3, 400 MHz): 7.43-7.27 (m, 5H), 4.57 (s, 2H), 4.11-3.90 (m, 1H), 3.62-3.44 (m, 2H), 3.43-3.20 (m, 4H), 2.90 (s, 3H), 1.14-1.33 (m, 3H).

reactant | Triethylamine | 0.043 ml, 0.1 equiv | C(C)N(CC)CC | C6H15N
reactant | N-ethylmethanesulfonamide | 413 mg, 1.1 equiv | C(C)NS(=O)(=O)C | C3H9NO2S
reactant | 2-benzyloxymethyloxirane | 3.04 mmol, 500 mg | C(C1=CC=CC=C1)OCC1OC1 | C10H12O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-(3-Benzyloxy-2-hydroxy-propyl)-N-ethyl-methanesulfonamide | C(C1=CC=CC=C1)OCC(CN(S(=O)(=O)C)CC)O | C13H21NO4S
